US05242944
A mixture of 14.0 g of 3-methylbenzyl chloride and 50.0 g of ethyl acrylate dissolved in 300 ml of dry toluene was heated to 110° C. Separatively, 3.0 g of 2,2'-azobisisobutyronitrile(AIBN) and 32.0 g of tri-n-butyltin hydride were dissolved in 200 ml of dry toluene, which was added to the above mixture over a period of 2 hours. This reaction mixture was further heated at the boiling temperature for 2 hours and then cooled to the ambient temperature. The residues obtained after removing the solvent from the mixture were purified by silica gel column chromatography to provide ethyl-4-(3-methylphenyl)butanoate.

reactant | 3-methylbenzyl chloride | 14.0 g | CC=1C=C(CCl)C=CC1 | C8H9Cl
reactant | ethyl acrylate | 50.0 g | C(C=C)(=O)OCC | C5H8O2
reactant | tri-n-butyltin hydride | 32.0 g | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl-4-(3-methylphenyl)butanoate | C(C)OC(CCCC1=CC(=CC=C1)C)=O | C13H18O2
